US09029540B2
A 2 L jacketed reactor is charged ammonium acetate (668 g, 8.67 mol) and the reactor is flushed with argon. Then 4-methyl-3-oxopentanoate (500 g, 3.47 mols) is charged followed by methanol (1.0 L). The mixture is agitated at 55° C. for 5 h and concentrated in vacuo to about 1 L and then cooled to about 20° C. A solution of iPrAc (1.5 L) is added and the organic phase is washed with water (2×1.0 L). The organic phase is concentrated to provide methyl 3-amino-4-methylpent-2-enoate (Int-2) as yellow oil (560 g, 68 wt %) in 76% yield, which is used directly in next step.

reactant | ammonium acetate | 8.67 mol, 668 g | C(C)(=O)[O-].[NH4+]
reactant | 4-methyl-3-oxopentanoate | 3.47 mols, 500 g | CC(C(CC(=O)[O-])=O)C
solvent | methanol | 1.0 L | CO | CH4O
product | methyl 3-amino-4-methylpent-2-enoate | 76% yield | NC(=CC(=O)OC)C(C)C | C7H13NO2
